US04225589
Sodium (5.4 g) is dissolved in absolute ethanol (160 cc). 4-Methoxyphenol (29.2 g) dissolved in absolute ethanol (20 cc) is added. The mixture is stirred for 1 hour at ambient temperature. Ethyl 2,2-dichloro-acetate (20 g) dissolved in absolute ethanol (20 cc) is then added and the mixture is heated under reflux for 20 hours. The ethanol is driven off under reduced pressure (20 mmHg) at 40° C. and the residue is taken up in diethyl ether (100 cc). The organic phase is washed with 0.1 N sodium hydroxide solution (100 cc) and with water (2×100 cc) and is then dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure (20 mmHg) at 40° C. Ethyl 2,2-bis(4-methoxyphenoxy)-acetate (30 g) is thus obtained in the form of an oil.

reactant | Sodium | 5.4 g | [Na] | Na
reactant | 4-Methoxyphenol | 29.2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | Ethyl 2,2-dichloro-acetate | 20 g | ClC(C(=O)OCC)Cl | C4H6Cl2O2
solvent | ethanol | 160 cc | C(C)O | C2H6O
solvent | ethanol | 20 cc | C(C)O | C2H6O
solvent | ethanol | 20 cc | C(C)O | C2H6O
solvent | diethyl ether | 100 cc | C(C)OCC | C4H10O
product | Ethyl 2,2-bis(4-methoxyphenoxy)-acetate | 30 g | COC1=CC=C(OC(C(=O)OCC)OC2=CC=C(C=C2)OC)C=C1 | C18H20O6
